US09163003B2
2-(bromomethyl)-6-chlorobenzonitrile
To a solution of 2-chloro-6-methylbenzonitrile (2.0 g, 13 mmol) and N-bromosuccinimide (2.6 g, 15 mmol) in carbon tetrachloride (20 mL) was added azobisisobutyronitrile (0.20 g, 1.2 mmol). The mixture was refluxed for 3 h and then cooled, diluted with dichloromethane and washed with water and brine. The organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The resultant oil was purified via flash column chromatography (ethyl acetate:hexane, 0:100 to 30:70) to yield white solid product (1.4 g, 46%). 1H NMR (400 MHz, CDCl3) δ 7.43-7.59 (m, 3H), 4.64 (s, 2H).

reactant | 2-chloro-6-methylbenzonitrile | 13 mmol, 2.0 g | ClC1=C(C#N)C(=CC=C1)C | C8H6ClN
reactant | N-bromosuccinimide | 15 mmol, 2.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 1.2 mmol, 0.20 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(bromomethyl)-6-chlorobenzonitrile | 1.4 g, 46% | BrCC1=C(C#N)C(=CC=C1)Cl | C8H5BrClN
